US07691902B2
To 4-bromo-2-fluorobenzene-1-sulfonyl chloride (1.0 g, 3.7 mmol) and Et3N (1.5 mL, 11 mmol) in dichloromethane (10 mL) was added a solution of dimethylamine 2.0 M in THF (2.2 mL, 4.4 mmol). The reaction was stirred at ambient temperature for 30 minutes. The reaction was washed with 10 mL of 1N aqueous HCl and 10 mL of brine. Organics were dried over Na2SO4 and evaporated to dryness. Crude product was purified by chromatography on silica gel (eluting with 0-25% ethyl acetate in hexanes) to afford 4-bromo-2-fluoro-N,N-dimethylbenzenesulfonamide (780 mg, 75%).

reactant | 4-bromo-2-fluorobenzene-1-sulfonyl chloride | 3.7 mmol, 1.0 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | Et3N | 11 mmol, 1.5 mL | CCN(CC)CC | C6H15N
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | THF | 4.4 mmol, 2.2 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-bromo-2-fluoro-N,N-dimethylbenzenesulfonamide | 780 mg, 75% | BrC1=CC(=C(C=C1)S(=O)(=O)N(C)C)F | C8H9BrFNO2S
